US04310467
To a solution of 2.4 g of lead diacetate-trihydrate in 180 ml of dimethylformamide and 24 ml of acetic anhydride was added 4.6 g of (20S)-20-methylpregn-5-ene-1α,3β,21-triol. After standing at room temperature for 24 hr., the mixture was poured onto 1 kg of a 3:1 water--ice mixture and then extracted with ether. The ether extract was washed with water, dried (Na2SO4) and evaporated by means of a water aspirator. The residue was chromatographed on 100 g of silica gel. Elution with 1:1 hexane--ether afforded 1.14 g (20%) of (20S)-3β,21-diacetyloxy-20-methylpregn-5-en-1α-ol, mp 148°-149°. Elution with ether gave first 0.24 g (4.6%) of (20S)-3β-acetyloxy-20-methylpregn-5-ene-1α,21-diol, mp 202°-203° and then 2.94 g (57%) of (20S)-21-acetyloxy-20-methylpregn-5-ene-1α,3β -diol, mp 121°-121°. Finally, elution with ethyl acetate afforded 0.79 g (17%) of starting triol.

reactant | lead diacetate-trihydrate | 2.4 g | O.O.O.C(C)(=O)[O-].C(C)(=O)[O-].[Pb+2]
reactant | (20S)-20-methylpregn-5-ene-1α,3β,21-triol | 4.6 g | C[C@H](CO)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C22H36O3
reactant | water | 1 kg | O | H2O
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | acetic anhydride | 24 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (20S)-3β,21-diacetyloxy-20-methylpregn-5-en-1α-ol | 1.14 g, 20% | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COC(C)=O)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)O)C)C | C26H40O5
